US06177400B1
Preparation of 2,2,4-trimethyl-1-cyclohexanecarbaldehyde
4,6,6-Trimethyl-1,3-cyclohexadiene-1-carbaldehyde (100.0 g, 0.66 mole), 11 of ethyl acetate and 0.3 g of palladium on charcoal (0.3 g) were hydrogenated as described in Example 1, over 3 days. The H2-consumption was 35 1. The mixture was then heated with pyridin chlorochromate to oxidize the amounts of alcohol formed. After filtration and concentration, the product was distilled at 65-73°/18 hPa, to obtain 68.8 g (67%) of the desired product in the form of a mixture of 2 isomers in a ratio of 1:3.

reactant | 4,6,6-Trimethyl-1,3-cyclohexadiene-1-carbaldehyde | 0.66 mole, 100.0 g | CC1=CC=C(C(C1)(C)C)C=O | C10H14O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,4-trimethyl-1-cyclohexanecarbaldehyde | 68.8 g, 67% | CC1(C(CCC(C1)C)C=O)C | C10H18O
